US04128647
B. 2,3,8,9-Tetrahydro-5-(4-methoxyphenyl)-9-[(4-methoxyphenyl)methylene]-5H,6H-thiazolo[3,2-a]thiopyrano[4,3-d]pyrimidine-7,7-dioxide
A suspension of 4-[(4,5-dihydro-2-thiazolyl)amino]-tetrahydro-3,5-bis[(4-methoxyphenyl)methylene]thiopyran-4-ol-1,1-dioxide (6.0 g, 0.012 mole) in 75 ml of n-BuOH and 25 ml of DMSO is stirred and heated at reflux for 1 hour. The volume of the resulting solution is reduced by approximately one-half using a Dean-Stark trap. After cooling, the yield of yellow product is 4.7 g, m.p. 235°-240°. Crystallization from 25 ml of DMF gives 4.0 g (69%) of cream colored product, m.p. 243°-245°.

reactant | 4-[(4,5-dihydro-2-thiazolyl)amino]-tetrahydro-3,5-bis[(4-methoxyphenyl)methylene]thiopyran-4-ol-1,1-dioxide | 0.012 mole, 6.0 g | S1C(=NCC1)NC1(C(CS(CC1=CC1=CC=C(C=C1)OC)(=O)=O)=CC1=CC=C(C=C1)OC)O | C24H26N2O5S2
solvent | n-BuOH | 75 ml | CCCCO | C4H10O
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
product | 2,3,8,9-Tetrahydro-5-(4-methoxyphenyl)-9-[(4-methoxyphenyl)methylene]-5H,6H-thiazolo[3,2-a]thiopyrano[4,3-d]pyrimidine-7,7-dioxide | COC1=CC=C(C=C1)C1C2=C(N=C3N1CCS3)C(CS(C2)(=O)=O)=CC2=CC=C(C=C2)OC | C24H24N2O4S2
